US05006520
In 300 ml of trifluoroacetic acid was dissolved 58.3 g of 1-(4-aminophenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine. Thereto, 51.3 g of trifluoroacetic anhydride was added dropwise under ice-cooling. The mixture was stirred at room temperature for 2 hours. After trifluoroacetic acid was distilled off under reduced pressure, water was added to the residue. The mixture was extracted with ethyl acetate and washed with water. Ethyl acetate was distilled off, and isopropyl ether was added to the residue for crystallization to give 3-phenyl-1-(4-trifluoroacetylaminophenyl)-1H-pyrazolo[3,4-b]pyridine, m.p. 172°-174° C.

reactant | 1-(4-aminophenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine | 58.3 g | NC1=CC=C(C=C1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2 | C18H14N4
reactant | trifluoroacetic anhydride | 51.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-phenyl-1-(4-trifluoroacetylaminophenyl)-1H-pyrazolo[3,4-b]pyridine | C1(=CC=CC=C1)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)NC(C(F)(F)F)=O | C20H13F3N4O
